US07410981B2
4-[(tert-Butoxycarbonyl)amino]butyl acetate
To a mixture of tert-butyl 4-hydroxybutylcarbamate (3.83 g) obtained in Reference Example 35 and ethyl acetate (20 mL) were added pyridine (1.80 mL) and acetic anhydride (2.27 g), and the mixture was stirred at room temperature for 0.19 hrs. Ethyl acetate (100 mL) was added to the reaction mixture, and the mixture was washed with water (50 mL), an aqueous copper sulfate solution (30 mL), water (30 mL) and saturated brine (30 mL) and dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave the title compound (4.55 g) as a colorless oil.

reactant | tert-butyl 4-hydroxybutylcarbamate | 3.83 g | OCCCCNC(OC(C)(C)C)=O | C9H19NO3
reactant | pyridine | 1.80 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 2.27 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-[(tert-Butoxycarbonyl)amino]butyl acetate | 4.55 g | C(C)(=O)OCCCCNC(=O)OC(C)(C)C | C11H21NO4
